US04616011
(b) 3-(N-Methyl-2-amino-ethyl)-indole
IR-spectrum (methylene chloride): 3490 cm-1 (indole).

reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(N-Methyl-2-amino-ethyl)-indole | CNCCC1=CNC2=CC=CC=C12 | C11H14N2
